US04127405
N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-chlorobenzenesulfonamide
To 15.6 g of 2-amino-4,6-dimethoxy-1,3,5-triazine in 300 ml of dry methylene chloride containing 0.1 g 1,4-diazabicyclo[2,2,2]octane was added 21 g 2-chlorobenzenesulfonyl isocyanate with stirring. The mixture was stirred for 16 hours and the resultant solid was removed by filtration. After washing the solid with 1-chlorobutane, the resulting product, N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)-aminocarbonyl]-2-chlorobenzenesulfonamide melted at 188°-189° C. Infrared absorption analysis showed absorption peaks at 1740 cm-1, 1630 cm-1 and 1595 cm-1 which are typical for this type of compound.

reactant | 2-amino-4,6-dimethoxy-1,3,5-triazine | 15.6 g | NC1=NC(=NC(=N1)OC)OC | C5H8N4O2
reactant | 2-chlorobenzenesulfonyl isocyanate | 21 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | methylene chloride | 300 ml, 0.1 g | C(Cl)Cl | CH2Cl2
product | N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-chlorobenzenesulfonamide | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)Cl | C12H12ClN5O5S
